US06001839
A mixture of 4-amino-5-(4-phenoxyphenyl)-7-(tert-butyl)pyrrolo[2,3-d]-pyrimidine (5.8 g), glacial acetic acid (55 ml) and hydrobromic acid (55 ml of a 48% solution) was boiled under reflux for 18 hours under nitrogen. The mixture was allowed to cool and a solid was collected by filtration. This solid was washed with methanol and then with ether to give 4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]-pyrimidine hydrobromide, m.p. 288-292° C. The hydrobromide salt was converted into the free base by warming with dilute sodium hydroxide solution (100 ml of 5% w/v solution) and ethanol (60 ml) with stirring and removing the ethanol by distillation. The mixture was cooled and the solid was collected by filtration and washed well with water to give 5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine.

reactant | 4-amino-5-(4-phenoxyphenyl)-7-(tert-butyl)pyrrolo[2,3-d]-pyrimidine | 5.8 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C(C)(C)C | C22H22N4O
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 55 ml | C(C)(=O)O | C2H4O2
product | 4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]-pyrimidine hydrobromide | Br.NC=1C2=C(N=CN1)NC=C2C2=CC=C(C=C2)OC2=CC=CC=C2 | InChI=1S/C18H14N4O.BrH/c19-17-16-15(10-20-18(16)22-11-21-17)12-6-8-14(9-7-12)23-13-4-2-1-3-5-13;/h1-11H,(H3,19,20,21,22);1H
